US06211375B1
Preparation of 2,4,5-trifluoro-3,6-dimethylbenzoic Acid
70 ml of 1.69M n-hexane solution of n-butyllithium was added dropwise to solution of 18 ml of diisopropylamine in 75 ml of tetrahydrofuran at −65 ° C. under nitrogen stream, and the mixture was stirred at the same temperature for 15 minutes. To the solution was added dropwise solution of 9.5 g of 2,4,5-trifluoro-3-methylbenzoic acid in 75 ml of tetrahydrofuran at −60° C., and the mixture was stirred at the same temperature for 15 minutes. To the solution was added dropwise 9.5 ml of methyl iodide at −70° C., and the mixture was stirred at the same temperature for 30 minutes and overnight at room temperature. Diethylether and water were added for separation, and the aqueous layer was collected. The aqueous layer was acidified by adding conc. hydrochloric acid, and extracted with diethylether. The organic layer was dried over ahnydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 6.6 g of the title compound.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 18 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,4,5-trifluoro-3-methylbenzoic acid | 9.5 g | FC1=C(C(=O)O)C=C(C(=C1C)F)F | C8H5F3O2
reactant | methyl iodide | 9.5 ml | CI | CH3I
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Diethylether | C(C)OCC | C4H10O
solvent | n-hexane | 1.69M, 70 ml | CCCCCC | C6H14
product | 2,4,5-trifluoro-3,6-dimethylbenzoic Acid | 6.6 g | FC1=C(C(=O)O)C(=C(C(=C1C)F)F)C | C9H7F3O2
